US08076359B2
Step 1: tert-Butyl (3R,4S)-3-({cyclopropyl[3-[2-(dimethylamino)ethoxy]-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)-ethoxy]phenyl}piperidine-1-carboxylate
To a solution of tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate (1 eq.) from Example 1/Step 2 in DMF was added potassium carbonate (4.4 eq.) and 2-chloro-N,N-dimethylethanamine hydrochloride (2.5 eq.). The reaction was heated to 80° C. and stirred for 4 hr. After cooling to rt, the reaction was diluted with ether. The organic extract was washed with 5% aqueous potassium carbonate solution, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 2%→5% [2 M NH3 in MeOH] in DCM) to afford the title compound as an oil.

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)O | C40H50Cl2N2O7
reactant | potassium carbonate | 4.4 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 2.5 eq. | Cl.ClCCN(C)C
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | tert-Butyl (3R,4S)-3-({cyclopropyl[3-[2-(dimethylamino)ethoxy]-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)-ethoxy]phenyl}piperidine-1-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)OCCN(C)C | C44H59Cl2N3O7
